US08236808B2
3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid ((S)-2-amino-3-phenyl-propyl)-amide
To a solution of 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid (0.225 g, 1.2 mmol) and HATU (0.46 g, 1.2 mmol) in DMF (10 mL) is added N-methylmorpholine (0.53 mL, 4.8 mmol) and ((S)-1-aminomethyl-2-phenyl-ethyl)-carbamic acid tert-butyl ester (0.3 g, 1.2 mmol) and the resulting yellow solution is stirred at RT for 18 h. The solvent is removed in vacuo and the residue is diluted with water (10 mL). The precipitate which forms is collected by filtration and dissolved in DCM (5 mL). TFA (1 mL) is added and the solution stirred at RT for 1 h. The solvent is removed in vacuo, and the residue is purified by reverse phase chromatography (Isolute™ C18, 0-100% acetonitrile in water with 0.1% TFA) to yield the title compound. [M+H]+ 321

reactant | 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid | 1.2 mmol, 0.225 g | NC=1C(=NC(=C(N1)N)Cl)C(=O)O | C5H5ClN4O2
reactant | HATU | 1.2 mmol, 0.46 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 4.8 mmol, 0.53 mL | CN1CCOCC1 | C5H11NO
reactant | ((S)-1-aminomethyl-2-phenyl-ethyl)-carbamic acid tert-butyl ester | 1.2 mmol, 0.3 g | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)CN)=O | C14H22N2O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid ((S)-2-amino-3-phenyl-propyl)-amide | N[C@H](CNC(=O)C1=NC(=C(N=C1N)N)Cl)CC1=CC=CC=C1 | C14H17ClN6O
